US05106842
Diphenylmethyl 7-amino-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (Ib1)
Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (400 mg, 0.712 mmol) was added to a stirred solution of p-toluenesulfonic acid monohydrate (272 mg, 1.43 mmols) in acetonitrile (1.6 mL). Stirring was continued for 0.5 hr at 22° C., at which time additional acetonitrile (1mL) and H2O (2 drops) were added. Stirring was continued for an additional 0.5 hr at 22° C. and then for 0.33 hr at a water bath temperature of 3520 -40° C. The solution was applied to a Michel-Miller HPLPLC column (22×300 mm, purchased from Ace Glass) containing Partisil Prep 40 ODS-3 (purchased from Whatman Chemical Separation Inc., Clifton, N.J.). The column was eluted with a mixture of 80% acetonitrile-20% H2O (50%) and 0.05M (pH 6.5) ammonium phosphate (50%). The appropriate fractions were combined and acetonitrile was removed on a rotary evaporator. The resulting mixture was extracted with ethyl acetate (3X). The combined extracts were washed (saturated aqueous NaCl), dried (MgSO4), and partially concentrated. Dilution with n-heptane precipitated the title compound as a yellow powder (93.6 mg, 28% yield). Analytical HPLC indicated a purity of 97 area percent.

reactant | Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.712 mmol, 400 mg | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H27N3O7S
reactant | p-toluenesulfonic acid monohydrate | 1.43 mmols, 272 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | n-heptane | CCCCCCC | C7H16
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
catalyst | H2O | 2 drops | O | H2O
solvent | acetonitrile | 1mL | C(C)#N | C2H3N
product | Diphenylmethyl 7-amino-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 93.6 mg, 28% yield | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H19N3O5S
